US05112966
A solution of (3S,4R)-4-(1-(R)-t-butyldimethylsilyloxymethylethyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone (0.40 g) in methanol (40 ml) was treated with 6N hydrochloric acid (10 ml) with ice-cooling for 20 minutes. The reaction mixture was diluted with ethyl acetate (200 ml), washed with brine and dried over anhydrous sodium sulfate. Filtration and concentration of the filtrate in vacuo gave an oily residue, which was purified by silica gel chromatography to yield (3S,4R)- 4-(1-(R)-hydroxymethylethyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone.

reactant | (3S,4R)-4-(1-(R)-t-butyldimethylsilyloxymethylethyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone | 0.40 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C39H53NO7Si
reactant | hydrochloric acid | 6N, 10 ml | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (3S,4R)- 4-(1-(R)-hydroxymethylethyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone | OC[C@H](C)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C33H39NO7
